US04771058
4-(5-Bromo-3-methylpyrid-2-ylamino)butylamine (0.7 g) in methanol was reacted with 3,4-dimethoxy-1,2,5-thiadiazole-1-oxide (0.44 g) overnight at room temperature. Methanolic ammonia (25 ml) was added and the reaction mixture was stirred for 2 hours. After evaporation, the residue was recrystallised from a mixture of acetonitrile and ether to yield 4-amino-3-[4-(5-bromo-3-methylpyrid-2-ylamino)-butylamino]-1,2,5-thiadiazole-1-oxide (0.45 g, 45%) m.p. 212°-214° C. dec.

reactant | 4-(5-Bromo-3-methylpyrid-2-ylamino)butylamine | 0.7 g | BrC=1C=C(C(=NC1)NCCCCN)C | C10H16BrN3
reactant | 3,4-dimethoxy-1,2,5-thiadiazole-1-oxide | 0.44 g | COC1=NS(N=C1OC)=O | C4H6N2O3S
reactant | ammonia | 25 ml | N | H3N
solvent | methanol | CO | CH4O
product | 4-amino-3-[4-(5-bromo-3-methylpyrid-2-ylamino)-butylamino]-1,2,5-thiadiazole-1-oxide | 0.45 g, 45% | NC=1C(=NS(N1)=O)NCCCCNC1=NC=C(C=C1C)Br | C12H17BrN6OS
